US04086219
(c) D-Tryptophyl-L-leucyl-L-arginyl-L-prolyl-glycinamide dihydrochloride
A solution of 1.69 g. of Nα -t-butoxycarbonyl-D-tryptophyl-L-leucyl-L-arginyl-L-prolyl-glycinamide hydrochloride in 20 ml. of methanol and 10 ml. of 3N hydrogen chloride in 10 ml. of tetrahydrofuran is allowed to stand for 1 hour and then evaporated to dryness at 30° C. under reduced pressure. The residue is twice dissolved in 20 ml. of methanol and the solvent evaporated. It is then dried at 45° C. under reduced pressure. The product is used without further purification.

reactant | Nα -t-butoxycarbonyl-D-tryptophyl-L-leucyl-L-arginyl-L-prolyl-glycinamide hydrochloride | Cl.C(C)(C)(C)OC(=O)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC(=O)N)CCC1
reactant | methanol | CO | CH4O
reactant | hydrogen chloride | 3N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | D-Tryptophyl-L-leucyl-L-arginyl-L-prolyl-glycinamide dihydrochloride | Cl.Cl.N[C@H](CC1=CNC2=CC=CC=C12)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N1[C@H](C(=O)NCC(=O)N)CCC1 | InChI=1S/C30H46N10O5.2ClH/c1-17(2)13-23(39-26(42)20(31)14-18-15-36-21-8-4-3-7-19(18)21)27(43)38-22(9-5-11-35-30(33)34)29(45)40-12-6-10-24(40)28(44)37-16-25(32)41;;/h3-4,7-8,15,17,20,22-24,36H,5-6,9-14,16,31H2,1-2H3,(H2,32,41)(H,37,44)(H,38,43)(H,39,42)(H4,33,34,35);2*1H/t20-,22+,23+,24+;;/m1../s1
